US07816391B2
tert-butyl 1-(3-methoxy-4-(methoxycarbonyl)phenyl)hydrazinecarboxylate (Intermediate#112) (4.86 g, 16.40 mmol) was added to a 4M solution of hydrogen chloride (61.5 mL, 246 mmol) in dioxane. The resulting solution was stirred at 20° C. for 5 hours. The reaction mixture was evaporated to dryness and the crude residue was triturated with Et2O to give a solid which was collected by filtration and dried under vacuum to give methyl 4-hydrazinyl-2-methoxybenzoate hydrochloride (3.50 g, 92%) as a pale green solid.

reactant | tert-butyl 1-(3-methoxy-4-(methoxycarbonyl)phenyl)hydrazinecarboxylate | 16.40 mmol, 4.86 g | COC=1C=C(C=CC1C(=O)OC)N(N)C(=O)OC(C)(C)C | C14H20N2O5
reactant | hydrogen chloride | 246 mmol, 61.5 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | methyl 4-hydrazinyl-2-methoxybenzoate hydrochloride | 3.50 g, 92% | Cl.N(N)C1=CC(=C(C(=O)OC)C=C1)OC | InChI=1S/C9H12N2O3.ClH/c1-13-8-5-6(11-10)3-4-7(8)9(12)14-2;/h3-5,11H,10H2,1-2H3;1H
